US08461185B2
Step A: tert-butyl 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylate
To a solution of tert-butyl 3-bromo-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate (1.36 g, 3.71 mmol) in THF (8 mL) and water (8 mL) were added (4-methylphenyl)boronic acid (1.01 g, 7.43 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (82 mg, 0.11 mmol) and cesium carbonate (3.63 g, 11.1 mmol). The mixture was heated to 120° C. in a microwave reactor for 10 min. The mixture was cooled to ambient temperature and saturated aqueous NaHCO3 was added and the mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with water (2×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes 85% hexanes/ethyl acetate) gave the title compound (1.26 g). MS 378.3 (M+1).

reactant | tert-butyl 3-bromo-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)benzoate | 3.71 mmol, 1.36 g | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C1=NOC2(CCC2)C1 | C17H20BrNO3
reactant | (4-methylphenyl)boronic acid | 7.43 mmol, 1.01 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | cesium carbonate | 11.1 mmol, 3.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | water | 8 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.11 mmol, 82 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | tert-butyl 4′-methyl-5-(5-oxa-6-azaspiro[3.4]oct-6-en-7-yl)biphenyl-3-carboxylate | 1.26 g | CC1=CC=C(C=C1)C1=CC(=CC(=C1)C1=NOC2(CCC2)C1)C(=O)OC(C)(C)C | C24H27NO3
